US07601844B2
Step 1: (2-Bromo-5-chlorophenyl)methanol
A solution of methyl 2-bromo-5-chlorobenzoate (4.9 g, 19.64 mmol) in THF (50 mL) was cooled to 0° C. and treated with the dropwise addition of LAH (1.0M in THF) (20.62 mL, 20.62 mmol), causing a mild exotherm and gas evolution. The mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction was quenched using the Steinhardt procedure (see Fieser & Fieser, Reagents for Organic Synthesis, p. 584). The resulting precipitate was removed by filtration and washed with ethyl acetate. The combined filtrates were concentrated in-vacuo to yield a colorless oil which solidified upon standing. The residue was purified over a 330 g silica gel column via ISCO, eluting with a 10-100% EtOAc/Hexanes gradient over 30 minutes, to yield the title compound (2.04 g, 47% yield) as a colorless powder.

reactant | methyl 2-bromo-5-chlorobenzoate | 19.64 mmol, 4.9 g | BrC1=C(C(=O)OC)C=C(C=C1)Cl | C8H6BrClO2
reactant | LAH | 20.62 mmol, 1.0M, 20.62 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2-Bromo-5-chlorophenyl)methanol | 2.04 g, 47% yield | BrC1=C(C=C(C=C1)Cl)CO | C7H6BrClO
